US07667041B2
Synthesis of (E)-3-[3-ethoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-indan-1-yl-acrylamide
To a THF (8 mL) solution of 3-ethoxy-4-(4-methyl-1H-imidazole-1-yl)benzaldehyde (60 mg), (indan-1-ylcarbamoylmethyl)phosphonic acid diethyl ester (81 mg) and lithium hydroxide monohydrate (22 mg) were added, and the reaction mixture was agitated at room temperature for 14 hours. Water and ethyl acetate were added to the reaction solution after the reaction ended, and the organic layer was separated. The obtained organic layer was washed with a saturated sodium chloride solution, and the solvent was evaporated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 1:4), and 23 mg (23%) of the title compound was obtained. The physical properties of the compound are as follows.

reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | 3-ethoxy-4-(4-methyl-1H-imidazole-1-yl)benzaldehyde | 60 mg | C(C)OC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C13H14N2O2
reactant | (indan-1-ylcarbamoylmethyl)phosphonic acid diethyl ester | 81 mg | C(C)OP(OCC)(=O)CC(NC1CCC2=CC=CC=C12)=O | C15H22NO4P
reactant | lithium hydroxide monohydrate | 22 mg | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (E)-3-[3-ethoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-indan-1-yl-acrylamide | 23 mg, 23% | C(C)OC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NC1CCC2=CC=CC=C12 | C24H25N3O2
